US05783522
3-Chloro-2-[4-chloro-3-(4-methyl-1,3-dioxolan-2-yl)phenyl]-5-trifluoromethylpyridine (Table 1, Example I.118)
2.0 g of 1,2-propanediol and 100 mg of p-toluenesulfonic acid were added to 3.2 g of 3-chloro-2-(4-chloro-3-dimethoxymethylphenyl)-5-trifluoromethylpyridine in 100 ml of anhydrous toluene. The mixture was then refluxed for two hours and stirred at 23° C. for 16 hours. Extraction was carried out first with 50 ml of a 10% by weight sodium bicarbonate solution and then three times with 80 ml of water each time, after which the organic solution was dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel with cyclohexane/ethyl acetate (10:1). Yield: 3.1 g (94%) of a colorless oil (1:1 mixture of diastereomers);

reactant | 1,2-propanediol | 2.0 g | C(C(C)O)O | C3H8O2
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-chloro-2-(4-chloro-3-dimethoxymethylphenyl)-5-trifluoromethylpyridine | 3.2 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(OC)OC | C15H12Cl2F3NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Chloro-2-[4-chloro-3-(4-methyl-1,3-dioxolan-2-yl)phenyl]-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C1OCC(O1)C | C16H12Cl2F3NO2
